US05734052
Preparation of 1,3-Dipropyl-8-(1,2,3,4-tetrahydronaphthalen-2-yl)-3,9-dihydropurine-2,6-dione
Dissolve 1,2,3,4-tetrahydronaphthalene-2-carboxylic acid (2-amino-4,6-dioxo-3,5-dipropylcyclohex-1-enyl)amide (2.0 g, 5.2 mmol) in ethanol (50 ml), add 15% potassium hydroxide (50 ml) and heat to 70° C. for 4 hours. After cooling to 0° C., acidify the reaction with concentrated hydrochloric acid (13 ml). Add water (100 ml) and collect the resulting precipitate by suction filtration. Purify the white solid by flash chromatography (50% ethyl acetate/hexane) and triturate with 5% diethyl ether/hexane to provide, after drying under vacuum at 120° C. for 30 minutes the title compound (1.04 g), m.p. 202°-204° C.

reactant | 1,2,3,4-tetrahydronaphthalene-2-carboxylic acid (2-amino-4,6-dioxo-3,5-dipropylcyclohex-1-enyl)amide | 5.2 mmol, 2.0 g | NC1=C(C(C(C(C1CCC)=O)CCC)=O)NC(=O)C1CC2=CC=CC=C2CC1 | C23H30N2O3
reactant | potassium hydroxide | 50 ml | [OH-].[K+]
reactant | hydrochloric acid | 13 ml | Cl | ClH
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 1,3-Dipropyl-8-(1,2,3,4-tetrahydronaphthalen-2-yl)-3,9-dihydropurine-2,6-dione | C(CC)N1C(N(C=2NC(=NC2C1=O)C1CC2=CC=CC=C2CC1)CCC)=O | C21H26N4O2
